US07981918B2
Step 1) Heat a mixture of 1,3-dichlorotoluene (250 mL, 1.95 moles), heptane (625 mL), Bis(pinacolato)diboron (237.9 g; 937 mmoles), 2,2′-Bipyridine (3.08 g, 19.47 mmoles), and Di-chlorobis((1,2,5,6-eta)-1,5-cyclooctadiene)diiridium (0.662 g; 0.98 mmoles) at 100° C. for 4 h. Cool the mixture to 55° C. and add 940 mL of t-butyl methyl ether. The solution is passed through 133 g of flash silica gel and the silica gel is rinsed with 200 mL of t-butyl methyl ether. Replace the solvent with isopropanol (approximately 1 L) and stir the slurry at 5° C. for 1 hr. Collect the solid by filtration and rinse with 200 mL of cold isopropanol. Dry the solid under vacuum to afford 410 g (73% yield) of 2-(3,5-dichloro-4-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as an off-white solid. 1H NMR (CDCl3, 500 MHz) δ 1.34 (12H, s), 2.48 (3H, s), 7.68 (2H, s).

reactant | 1,3-dichlorotoluene | 1.95 moles, 250 mL | ClC1(CC(=CC=C1)Cl)C | C7H8Cl2
reactant | heptane | 625 mL | CCCCCCC | C7H16
reactant | Bis(pinacolato)diboron | 937 mmoles, 237.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | 2,2′-Bipyridine | 19.47 mmoles, 3.08 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | t-butyl methyl ether | 940 mL | COC(C)(C)C | C5H12O
product | 2-(3,5-dichloro-4-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 410 g, 73% yield | ClC=1C=C(C=C(C1C)Cl)B1OC(C(O1)(C)C)(C)C | C13H17BCl2O2
